US09260436B2
A mixture of 0.37 g of 2-ethylsulfanylphenylboronic acid pinacol ester, 0.46 g of 6-iodo-3-methyl-2-trifluoromethyl-3H-imidazo[4,5-b]pyridine, 0.03 g of tris(dibenzylideneacetone)dipalladium(0), 0.08 g of 2-dicyclohexylphosphino-2′,4′,6′-triisopropylphenyl, 0.74 g of tripotassium phosphate, 0.1 ml of water and 10 ml of 1,4-dioxane was stirred at 100° C. for 4 hours. Ethyl acetate and water were added to the cooled reaction mixture, and the mixture was filtered. The filtrate was extracted with ethyl acetate and then dried over anhydrous sodium sulfate. The mixture was concentrated under reduced pressure, and the resulting residue was applied to a silica gel column chromatography to obtain 0.49 g of 6-(2-ethylsulfanylphenyl)-3-methyl-2-trifluoromethyl-3H-imidazo[4,5-b]pyridine (Compound of Present Invention 24).

reactant | 2-ethylsulfanylphenylboronic acid pinacol ester | 0.37 g | C(C)SC1=C(C=CC=C1)B1OC(C)(C)C(C)(C)O1 | C14H21BO2S
reactant | 6-iodo-3-methyl-2-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.46 g | IC=1C=C2C(=NC1)N(C(=N2)C(F)(F)F)C | C8H5F3IN3
reactant | tripotassium phosphate | 0.74 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.03 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.1 ml | O | H2O
product | 6-(2-ethylsulfanylphenyl)-3-methyl-2-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.49 g | C(C)SC1=C(C=CC=C1)C=1C=C2C(=NC1)N(C(=N2)C(F)(F)F)C | C16H14F3N3S
